US06100260
Under a nitrogen atmosphere, methyl (2-fluoro-biphenyl-4-yl)-acetate (5.0 g) was dissolved in tetrahydrofuran (50 ml) and then sodium hydride (8.29 g, 60% oily) was added under ice-cooling, after which the resulting mixture was stirred for 30 minutes. Subsequently, N,N-dimethylformamide (100 ml) was added and then 1,2-dibromoethane (17.6 ml) was added, after which the resulting mixture was stirred for 1.5 hours. To the reaction mixture was added 4 N hydrochloric acid-1,4-dioxane solution (60 ml) and the solution was then neutralized with a saturated aqueous ammonium chloride solution and thereafter subjected to extraction with ethyl acetate. The organic layer was dried over sodium sulfate and then concentrated under reduced pressure. The residue was purified by a silica gel column chromatography (hexane/ethyl acetate=20/1), to obtain methyl 1-(2-fluoro-biphenyl-4-yl)-cyclopropanecarboxylate (4.28 g).

reactant | methyl (2-fluoro-biphenyl-4-yl)-acetate | 5.0 g | FC1=C(C=CC(=C1)CC(=O)OC)C1=CC=CC=C1 | C15H13FO2
reactant | sodium hydride | 8.29 g | [H-].[Na+]
reactant | 1,2-dibromoethane | 17.6 ml | BrCCBr | C2H4Br2
reactant | hydrochloric acid 1,4-dioxane | 4 N, 60 ml | Cl.O1CCOCC1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | methyl 1-(2-fluoro-biphenyl-4-yl)-cyclopropanecarboxylate | 4.28 g | FC1=C(C=CC(=C1)C1(CC1)C(=O)OC)C1=CC=CC=C1 | C17H15FO2
